* Z:\mnt\design.r\spice\examples\1142L-ADJ.asc
C1 N016 0 390p
C2 N015 0 590p
R1 N011 N012 1K
C3 N012 0 3300p
M§Q1 N003 N008 0 0 FDS6680A
C4 N004 +5 1000p
L1 N003 N004 50µ
R2 N004 +5 50m
C5 +5 0 220µ Rser=0.1 x2
D1 0 N003 1N5818
M§Q2 N006 N007 0 0 FDS6680A
M§Q3 N006 N002 IN IN FDC638P
L2 N006 N005 50µ
R3 N005 +3.3 50m
D2 0 N006 1N5818
C6 N005 +3.3 1000p
V1 IN 0 10
M§Q4 N003 N001 IN IN FDC638P
R4 +3.3 N013 164K
R5 N013 0 100K
R6 +5 N014 300K
R7 N014 0 100K
R8 N010 N009 1K
C7 N009 0 3300p
XU1 N005 N013 0 0 0 N007 MP_01 MP_02 N001 IN N016 MP_03 N011 +5 N004 N014 0 0 0 N008 MP_04 MP_05 N002 IN N015 MP_06 N010 +3.3 LTC1142-ADJ
C8 +3.3 0 220µ Rser=0.1 x2
Rload1 +3.3 0 10
Rload2 +5 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC1142-ADJ.sub
.backanno
.end
