* Z:\mnt\design.r\spice\examples\1147L.asc
D1 0 N001 MBRS340
L1 N001 N002 50µ
C1 N006 0 470p
C2 N004 0 3300p
V1 IN 0 10
C3 OUT 0 390µ Rser=0.01
R1 OUT N007 300K
R2 N007 0 100K
C4 N002 OUT 1000p
R3 N005 N004 1K
M§Q1 N001 N003 IN IN FDC638P
R4 N002 OUT 50m
XU1 IN N006 N005 OUT N002 N007 0 N003 LTC1147
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC1147.sub
.backanno
.end
