* Z:\mnt\design.r\spice\examples\1148L.asc
M§Q1 N002 N001 IN IN FDC638P
M§Q2 N002 N009 0 0 FDS6680A
L1 N002 N003 50µ
C1 OUT 0 390µ Rser=.01
V1 IN 0 10
C2 N008 0 470p
C3 N005 0 3300p
D1 0 N002 1N5818
C4 N003 OUT 1000p
R1 N006 N005 1K
R2 OUT N007 164K
R3 N007 0 100K
R4 N003 OUT 50m
XU1 N001 MP_01 IN N008 MP_02 N006 OUT N003 N007 N004 0 0 MP_03 N009 LTC1148
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LTC1148.sub
.backanno
.end
