* Z:\mnt\design.r\spice\examples\3310S-1.asc
L1 N002 OUT 100n Rser=2m
V1 IN 0 3.3
Rload OUT 0 .1
C2 P001 0 4.7n
C3 P002 0 330p
R4 N003 P002 17.5k
C1 OUT 0 47µ x7 Rser=5m
R3 OUT N001 500k
R5 N004 0 274k
XU1 IN IN N002 OUT 0 0 N004 N001 IN N003 P001 LTC3310S-1
.tran .4m startup
.lib LTC3310S-1.sub
.backanno
.end
