* Z:\mnt\design.r\spice\examples\2ndOrderComplexzero.asc
G1 0 N002 1 0 {2*f0**2/(R1*fn**2)}
R2 N002 0 {R1/2}
G2 0 N003 N002 N005 {2m*K1}
R4 N003 0 1k
L1 N005 N006 {L1}
R1 N002 N005 {R1/2}
C2 N006 0 {C1}
G3 0 N003 N005 N006 {1m}
G4 0 N003 N006 0 {1m*K2}
G5 0 2 N003 0 {10*H}
R3 2 0 .1
* .param f0=1e3 Q=2.5 fn=2e3 Qn=1
* 2nd Order Complex Zero LTSPICE implementation for f0,  Q,  fn, and Qn set by parameters >>>
.param R1=1k
.param K1 = (fn*Q)/(f0*Qn)
.param K2 = (fn/f0)**2
.param L1 = R1*Q/(2*pi*f0)
.param C1 = 1/(L1*(2*pi*f0)**2)
* Vin
* Vout
.backanno
.end
